US05741715
To a solution of 0.6 g (1.91 mmol) of 6-hydroxycinchonine in 25 ml of anhydrous acetone (dried and distilled over potassium carbonate) and 8 ml of anhydrous dimethylformamide is added 0.516 g (2.87 mmol) of anhydrous potassium carbonate followed by 0.329 g (1.91 mmol) of 3-(bromomethyl)benzonitrile (Lancaster) and 4 mg of 18-crown-6. The reaction mixture is heated to reflux for 18 h, cooled and filtered. The filtrate is concentrated under reduced pressure and redissolved in 200 ml of chloroform. The organic layer is washed with 2×50 ml of 5% aqueous sodium hydroxide, washed with brine, dried with anhydrous magnesium sulphate to yield 0.647 g (1.51 mmol, 79%) of (9S)-6'-(3-cyanobenzyloxy) cinchonane-9-ol as pale off-white solids.

reactant | 6-hydroxycinchonine | 1.91 mmol, 0.6 g | C=CC1CN2CCC1CC2[C@@H](C3=C4C=C(C=CC4=NC=C3)O)O | C19H22N2O2
reactant | potassium carbonate | 2.87 mmol, 0.516 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(bromomethyl)benzonitrile | 1.91 mmol, 0.329 g | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
catalyst | 18-crown-6 | 4 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | (9S)-6'-(3-cyanobenzyloxy) cinchonane-9-ol | 1.51 mmol, 0.647 g, 79% | C(#N)C=1C=C(COC2=CC=C3N=CC=C([C@@H]([C@H]4C[C@H]5[C@H](CN4CC5)C=C)O)C3=C2)C=CC1 | C27H27N3O2
